### PR TITLE
feat(QuantumMechanics): the Fourier transform on SpaceDHilbertSpace

### PR DESCRIPTION
**Pull request by adambornemann-glitch**
Add `Physlib.QuantumMechanics.HilbertSpaces.SpaceD.Fourier`: mathlib's L² Fourier transform `Lp.fourierTransformₗᵢ`, packaged as a unitary `fourierUnitary d : SpaceDHilbertSpace d ≃ₗᵢ[ℂ] SpaceDHilbertSpace d`, with its interface:

- `fourierUnitary_apply` / `fourierUnitary_symm_apply` : the unitary and
  its inverse act as `𝓕` / `𝓕⁻` (both `rfl`);
- `fourierUnitary_schwartzIncl` / `fourierUnitary_symm_schwartzIncl` :
  on the L² class of a Schwartz map it agrees with the Schwartz-level
  Fourier transform, `fourierUnitary d (schwartzIncl f) = schwartzIncl (𝓕 f)`;
- `fourierUnitary_symm_schwartzIncl_fourier` : the round trip
  `(fourierUnitary d).symm (schwartzIncl (𝓕 f)) = schwartzIncl f`;
- `fourierUnitary_map_schwartzSubmodule` : the Schwartz submodule is
  mapped onto itself.

Infrastructure for defining momentum-type operators by unitary conjugation of multiplication operators through `(fourierUnitary d).symm` (maximal momentum operator, stacked in a follow-up).

### CODE REVIEW

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean [hunk 1]
```diff
@@ -0,0 +1,93 @@
...
+open SchwartzMap
+open scoped FourierTransform
+
+variable {d : ℕ}
+
+/-! ## A. The Fourier unitary -/
+
+/-- The L² Fourier transform as a unitary on `SpaceDHilbertSpace d`. -/
+noncomputable def fourierUnitary (d : ℕ) :
+    SpaceDHilbertSpace d ≃ₗᵢ[ℂ] SpaceDHilbertSpace d := Lp.fourierTransformₗᵢ (Space d) ℂ
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean:55]:
```suggestion
/-- The L² Fourier transform as a unitary on `SpaceDHilbertSpace d`. -/
noncomputable def fourierUnitary (d : ℕ) :
    SpaceDHilbertSpace d ≃ₗᵢ[ℂ] SpaceDHilbertSpace d := Lp.fourierTransformₗᵢ (Space d) ℂ

noncomputable instance : FourierTransform (SpaceDHilbertSpace d) (SpaceDHilbertSpace d) where
  fourier := fourierUnitary d

noncomputable instance : FourierTransformInv (SpaceDHilbertSpace d) (SpaceDHilbertSpace d) where
  fourierInv := (fourierUnitary d).symm

instance : FourierPair (SpaceDHilbertSpace d) (SpaceDHilbertSpace d) where
  fourierInv_fourier_eq := (fourierUnitary d).symm_apply_apply

instance : FourierInvPair (SpaceDHilbertSpace d) (SpaceDHilbertSpace d) where
  fourier_fourierInv_eq := (fourierUnitary d).apply_symm_apply
```

Looking at `Lp.fourierTransformₗᵢ`, we should register the two directions of `fourierUnitary` as a Fourier pair. This will make things easier going forward (e.g. `fourier_fourierInv_eq` and `fourierInv_fourier_eq` are already Mathlib simp lemmas).

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean [hunk 2]
```diff
@@ -0,0 +1,93 @@
...
+
+/-- `(fourierUnitary d).symm` acts as the inverse L² Fourier transform `𝓕⁻`. -/
+lemma fourierUnitary_symm_apply (ψ : SpaceDHilbertSpace d) : (fourierUnitary d).symm ψ = 𝓕⁻ ψ := rfl
+
+/-! ## B. Action on the Schwartz submodule -/
+
+/-- Applying `fourierUnitary d` to the L² class of a Schwartz map `f` gives the L² class of the
+Schwartz Fourier transform `𝓕 f`. -/
+lemma fourierUnitary_schwartzIncl (f : 𝓢(Space d, ℂ)) :
+    fourierUnitary d (schwartzIncl f) = schwartzIncl (𝓕 f) := SchwartzMap.toLp_fourier_eq f
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean]:
```suggestion
lemma schwartzIncl_fourier_eq (f : 𝓢(Space d, ℂ)) :
    𝓕 (schwartzIncl f) = schwartzIncl (𝓕 f) := SchwartzMap.toLp_fourier_eq f
```
Name to mimic `toLp` version and notation provided by `FourierTransform` instance, for consistency.

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean [hunk 3]
```diff
@@ -0,0 +1,93 @@
...
+
+/-- Applying `(fourierUnitary d).symm` to the L² class of a Schwartz map `f` gives the L² class
+of the inverse Schwartz Fourier transform `𝓕⁻ f`. -/
+lemma fourierUnitary_symm_schwartzIncl (f : 𝓢(Space d, ℂ)) :
+    (fourierUnitary d).symm (schwartzIncl f) = schwartzIncl (𝓕⁻ f) :=
+SchwartzMap.toLp_fourierInv_eq f
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean]:
```suggestion
lemma schwarzIncl_fourierInv_eq (f : 𝓢(Space d, ℂ)) :
    𝓕⁻ (schwartzIncl f) = schwartzIncl (𝓕⁻ f) :=
  SchwartzMap.toLp_fourierInv_eq f
```
Similar.

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean [hunk 4]
```diff
@@ -0,0 +1,93 @@
...
+
+/-- Pulling the L² class of `𝓕 f` back through the Fourier unitary recovers the L² class of `f`. -/
+lemma fourierUnitary_symm_schwartzIncl_fourier (f : 𝓢(Space d, ℂ)) :
+    (fourierUnitary d).symm (schwartzIncl (𝓕 f)) = schwartzIncl f := by
+  rw [← fourierUnitary_schwartzIncl, LinearIsometryEquiv.symm_apply_apply]
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean]:
```suggestion
/-- Pulling the L² class of `𝓕 f` back through the Fourier unitary recovers the L² class of `f`. -/
@[simp]
lemma fourierInv_symm_schwartzIncl_fourier (f : 𝓢(Space d, ℂ)) :
    𝓕⁻ (schwartzIncl (𝓕 f)) = schwartzIncl f := by
  rw [← fourierUnitary_schwartzIncl, LinearIsometryEquiv.symm_apply_apply]
```
This should be a simp lemma (+ notation as before).

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean [hunk 5]
```diff
@@ -0,0 +1,93 @@
...
+
+/-- The Fourier unitary maps the Schwartz submodule onto itself. -/
+lemma fourierUnitary_map_schwartzSubmodule :
+    (SchwartzSubmodule d).map (fourierUnitary d).toLinearEquiv.toLinearMap
+ = SchwartzSubmodule d := by
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean]:
```suggestion
lemma fourierUnitary_map_schwartzSubmodule :
    (SchwartzSubmodule d).map (fourierUnitary d).toLinearMap = SchwartzSubmodule d := by
```
Formatting.

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean [hunk 6]
```diff
@@ -0,0 +1,93 @@
...
+  apply le_antisymm
+  · rintro x ⟨y, ⟨f, rfl⟩, rfl⟩
+    exact ⟨𝓕 f, (fourierUnitary_schwartzIncl f).symm⟩
+  · rintro x ⟨g, rfl⟩
+    exact ⟨(fourierUnitary d).symm (schwartzIncl g),
+      ⟨𝓕⁻ g, (fourierUnitary_symm_schwartzIncl g).symm⟩, (fourierUnitary d).apply_symm_apply _⟩
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean]:
```suggestion
    exact ⟨𝓕⁻ (schwartzIncl g), ⟨𝓕⁻ g, (fourierUnitary_symm_schwartzIncl g).symm⟩, by simp⟩
```
e.g. final '`by simp`' thanks to the `FourierInvPair` instance.

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean [hunk 7]
```diff
@@ -0,0 +1,93 @@
...
+
+/-- The L² Fourier transform as a unitary on `SpaceDHilbertSpace d`. -/
+noncomputable def fourierUnitary (d : ℕ) :
+    SpaceDHilbertSpace d ≃ₗᵢ[ℂ] SpaceDHilbertSpace d := Lp.fourierTransformₗᵢ (Space d) ℂ
+
+/-- `fourierUnitary d` acts as the L² Fourier transform `𝓕`. -/
+lemma fourierUnitary_apply (ψ : SpaceDHilbertSpace d) : fourierUnitary d ψ = 𝓕 ψ := rfl
+
+/-- `(fourierUnitary d).symm` acts as the inverse L² Fourier transform `𝓕⁻`. -/
+lemma fourierUnitary_symm_apply (ψ : SpaceDHilbertSpace d) : (fourierUnitary d).symm ψ = 𝓕⁻ ψ := rfl
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean:64]: These two should be simp lemmas.

**Review by gloges — COMMENTED** [review]
Thanks, overall these look good. I've made some comments and suggestions to take full advantage of Mathlib's `FourierTransform` class.

**Comment by adambornemann-glitch** [comment]
It turns out mathlib already registers this pair for Lp: Lp.instFourierTransform, Lp.instFourierPair, Lp.instFourierPairInv in Mathlib.Analysis.Fourier.LpSpace. Since SpaceDHilbertSpace is an abbrev of Lp ℂ 2 volume, with this commit the new local instances shadow the Lp ones in downstream resolution. The two sets are definitionally equal, fourierUnitary_apply : fourierUnitary d ψ = 𝓕 ψ := rfl type-checks against either, so nothing breaks.  My question is about instance hygiene. 

The instances auto-generated name is instFourierTransformSubtypeAEEqFunSpaceComplexVolumeMemAddSubgroup (a mouthful).  Should we drop them and lean on the Lp instances, keeping just the @[simp] bridge lemmas (avoids carrying defeq duplicates)?

-awaiting-author

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean [hunk 8]
```diff
@@ -0,0 +1,106 @@
...
+
+/-- Applying `fourierUnitary d` to the L² class of a Schwartz map `f` gives the L² class of the
+Schwartz Fourier transform `𝓕 f`. -/
+lemma schwartzIncl_fourier_eq (f : 𝓢(Space d, ℂ)) :
+    𝓕 (schwartzIncl f) = schwartzIncl (𝓕 f) := SchwartzMap.toLp_fourier_eq f
+
+/-- Applying `(fourierUnitary d).symm` to the L² class of a Schwartz map `f` gives the L² class
+of the inverse Schwartz Fourier transform `𝓕⁻ f`. -/
+lemma fourierUnitary_symm_schwartzIncl (f : 𝓢(Space d, ℂ)) :
+    (fourierUnitary d).symm (schwartzIncl f) = schwartzIncl (𝓕⁻ f) :=
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Fourier.lean]:
```suggestion
    𝓕⁻ (schwartzIncl volume f) = schwartzIncl volume (𝓕⁻ f) :=
```
Rogue `(fourierUnitary d).symm` to replace with `𝓕⁻` and example `schwartzIncl` fix.

**Review by gloges — COMMENTED** [review]
Ah, very good so the notation `𝓕` notation works out of the box as a map `↥(SpaceDHilbertSpace d) → ↥(Lp ℂ 2 volume)` which is definitionally `↥(SpaceDHilbertSpace d) → ↥(SpaceDHilbertSpace d)`. In that case let's remove the redundant Fourier instances -- sorry for complicating things.

The build is failing because of #1427. You should just need to merge and replace `schwartzIncl` with `schwartzIncl volume` everywhere.

**Comment by adambornemann-glitch** [comment]
You didn't complicate anything, I'm still learning and appreciate all the considerations.  I got myself momentarily discombobulated and am reorganizing + caffeinating now.

Waiting for the linters to finish testing before I remove the waiting label.

**Comment by adambornemann-glitch** [comment]
-awaiting-author

**Review by gloges — APPROVED** [review]
Looks good - thanks again!
